US06627651B1
A mixture of methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (200 mg), 4-fluorobenzyl chloride (0.090 ml), potassium carbonate (134 mg) and DMF (5 ml) was stirred at 55° C. for 7 hours. The reaction mixture was mixed with water and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the residue was subjected to separation and purification using column chromatography (ethyl acetate/hexane 1:1) to obtain methyl 7-[(4-fluorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (162 mg) as colorless crystals.

reactant | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 200 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 4-fluorobenzyl chloride | 0.090 ml | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | potassium carbonate | 134 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 7-[(4-fluorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 162 mg | FC1=CC=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C19H17FO5S
